US05506239
A suspension of 30 g of 6-(4-chlorobutoxy)carbostyril, 103 ml of benzylamine and 33 g of sodium iodide in 300 ml of dimethylformamide was stirred at 80° C. for 8 hours. The reaction mixture was allowed to cool and then poured into water. The resulting precipitate was collected by filtration. The precipitate was washed with water and diethyl ether in this order to obtain 29.1 g of 6-(4-benzylaminobutoxy)carbostyril.

reactant | 6-(4-chlorobutoxy)carbostyril | 30 g | ClCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14ClNO2
reactant | benzylamine | 103 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium iodide | 33 g | [I-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 6-(4-benzylaminobutoxy)carbostyril | 29.1 g | C(C1=CC=CC=C1)NCCCCOC=1C=C2C=CC(NC2=CC1)=O | C20H22N2O2
